US07884101B2
To a solution 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-[1,4]oxazepan-4-yl-ethoxy)-phenylamine (0.07 g, 0.2215 mmol) in 2.0 mL of DMA was added DIEA (0.057 g, 0.443 mmol), followed by m-trifluoromethyl benzoyl chloride (0.056 g, 0.266 mmol), and the reaction mixture was stirred at ambient temperature overnight. The reaction mixture was diluted to 5.0 mL with DMSO and purified by RP-HPLC. The proper fractions were collected and lyophilized to afford N-[3-(2-Methyl-2H-pyrazol-3-yl)-4-(2-[1,4]oxazepan-4-yl-ethoxy)-phenyl]-3-trifluoromethyl-benzamide as an off-white semisolid in 87% yield. LCMS m/z (%)=489 (M+H, 100). 1H NMR (400 MHz, DMSO-d6) δ: 10.5 (bs, 1H), 8.29 (s, 1H), 8.26 (d, J=7.94 Hz, 1H), 7.98 (d, J=7.83 Hz, 1H), 7.89 (dd, J=8.93 and 2.55 Hz, 1H), 7.79 (t, J=7.82 Hz, 1H), 7.72 (d, J=2.53 Hz, 1H), 7.49 (s, 1H), 7.26 (d, J=9.14 Hz, 1H), 6.31 (d, J=1.79 Hz, 1H), 4.29-4.43 (m, 2H), 3.69 (s, 3H), 3.55-3.64 (m, 5H), 3.01-3.18 (m, 5H), 1.8-2.1 (m, 2H).

reactant | 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-[1,4]oxazepan-4-yl-ethoxy)-phenylamine | 0.2215 mmol, 0.07 g | CN1N=CC=C1C=1C=C(C=CC1OCCN1CCOCCC1)N | C17H24N4O2
reactant | DIEA | 0.443 mmol, 0.057 g | CCN(C(C)C)C(C)C | C8H19N
reactant | m-trifluoromethyl benzoyl chloride | 0.266 mmol, 0.056 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | DMA | 2.0 mL | CC(=O)N(C)C | C4H9NO
solvent | DMSO | CS(=O)C | C2H6OS
product | N-[3-(2-Methyl-2H-pyrazol-3-yl)-4-(2-[1,4]oxazepan-4-yl-ethoxy)-phenyl]-3-trifluoromethyl-benzamide | 87% yield | CN1N=CC=C1C=1C=C(C=CC1OCCN1CCOCCC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C25H27F3N4O3
